US07186715B2
Step 1: 4-[2-(1-Benzyloxycarbonyl-piperidin-3-yloxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
(S)-3-Hydroxy-piperidine-1-carboxylic acid benzyl ester (2.34 g, 8.6 mmol) was dissolved in THF (40 mL) at room temperature. 4-(2-Hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (2.4 g, 8.6 mmol) and triphenylphosphine (2.7 g, 10.32 mmol) were added. Diisopropyl azodicarboxylate (2.05 mL, 10.32 mmol) was added dropwise to the solution. The reaction was stirred overnight, concentrated under reduced pressure, and purified using silica gel chromatography (100% ethyl acetate) to afford the title compound (2.5 g, 55%).

reactant | (S)-3-Hydroxy-piperidine-1-carboxylic acid benzyl ester | 8.6 mmol, 2.34 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H](CCC1)O | C13H17NO3
reactant | 4-(2-Hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 8.6 mmol, 2.4 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)O | C15H22N2O3
reactant | triphenylphosphine | 10.32 mmol, 2.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 10.32 mmol, 2.05 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-[2-(1-Benzyloxycarbonyl-piperidin-3-yloxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 2.5 g, 55% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C28H37N3O5
